US04933453
3-[4-[1-(3-Chlorophenyl)-4-piperazinyl]butyl]-2-Methyl-4-thiazolidinone hydrochloride
To a solution of 2-methyl-3-(4-bromobutyl)-4-thiazolidinone (4.0 g) and 1-(3-chlorophenyl)piperazine hydrochloride (3.69 g) in 100 ml of dry CH3CN were added K2CO3 (8.8 g) and NaI (200 mg). The mixture was heated to reflux with stirring under N2.

reactant | 2-methyl-3-(4-bromobutyl)-4-thiazolidinone | 4.0 g | CC1SCC(N1CCCCBr)=O | C8H14BrNOS
reactant | 1-(3-chlorophenyl)piperazine hydrochloride | 3.69 g | Cl.ClC=1C=C(C=CC1)N1CCNCC1
reactant | K2CO3 | 8.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 200 mg | [Na+].[I-]
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 3-[4-[1-(3-Chlorophenyl)-4-piperazinyl]butyl]-2-Methyl-4-thiazolidinone hydrochloride | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCCN1C(SCC1=O)C | InChI=1S/C18H26ClN3OS.ClH/c1-15-22(18(23)14-24-15)8-3-2-7-20-9-11-21(12-10-20)17-6-4-5-16(19)13-17;/h4-6,13,15H,2-3,7-12,14H2,1H3;1H
